US06441214B1
Methyl (Dimethoxyphosphinyl)dithioformate. Table I Compound (16)
Dimethyl phosphite (11.0 g 0.1 mol) was added dropwise to a stirred solution of 2.4 g (0.1 mole) of sodium hydride in 50 mL of dry THF at 25-30° C. under N2. The mixture was stirred under reflux until H2 evolution ceased. It was then cooled to 6° C. and was added with stirring to carbon disulfide (38 g, 0.5 mol) at 2-8° C. over 15 min. Methyl iodide (14.2 g 0.1 mol) was then added at 5° C. over 15 min. The mixture was quenched with 350 mL of ice-water and extracted with ether (100 mL×3). The ether layers were combined, dried with anhydrous magnesium sulfate, filtered, evaporated to remove ether and distilled in vacuo. The fraction boiling between 92-94° C./50μ was collected, 6.5 g, Y=32.5%. (Put footnote 2 here) 1H NMR: δ (ppm) 3.85 (d, 6H, 3JHP=10 Hz, POCH3), 2.69 (d, 3H, JHP=1 Hz CSCH3); 13C NMR: δ (ppm) 228(d, 1JCP=175 Hz, CS), 54.5 (d, 2J CP=6 Hz, POCH3), 10.9 (s, CSCH3); 31P NMR {H}: δ (ppm) 0.30 (s); 31P NMR: δ (ppm) 0.30 (m, 3JPH=11 Hz); HRMS: 199.9732 (Found); 199.9731 (Calcd).

reactant | Dimethyl phosphite | 0.1 mol, 11.0 g | P(OC)(OC)[O-]
reactant | sodium hydride | 0.1 mole, 2.4 g | [H-].[Na+]
reactant | carbon disulfide | 0.5 mol, 38 g | C(=S)=S | CS2
reactant | Methyl iodide | 0.1 mol, 14.2 g | CI | CH3I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Methyl (Dimethoxyphosphinyl)dithioformate | COP(=O)(OC)C(=S)SC | C4H9O3PS2
